US04499004
A mixture of 1.9 g of 5,8-dihydroxy-1,4-naphthoquinone and 40 ml of aniline is heated at 100° for 8 hours. After the mixture has been cooled and diluted with ethanol, 2,6-bis-anilino-5,8-dihydroxy-1,4-naphthoquinone is obtained.

reactant | 5,8-dihydroxy-1,4-naphthoquinone | 1.9 g | OC1=C2C(C=CC(C2=C(C=C1)O)=O)=O | C10H6O4
reactant | aniline | 40 ml | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | C(C)O | C2H6O
product | 2,6-bis-anilino-5,8-dihydroxy-1,4-naphthoquinone | N(C1=CC=CC=C1)C=1C(C2=C(C=C(C(=C2C(C1)=O)O)NC1=CC=CC=C1)O)=O | C22H16N2O4
